US05338857
(1) 3-Phenyl-5-(1-hydroxy-2-methyl-2-butenyl)isoxazole
To a solution of 5.0 g (28.9 mmol) of 3-phenyl-isoxazole-5-aldehyde in 40 ml of tetrahydrofuran, was added dropwise at -30° C. a solution of 1.5 g of metallic magnesium and 10.1 g (74.8 mmol) of 2-bromo-2-butene in 80 ml of tetrahydrofuran. After they were reacted at the same temperature for 30 minutes, the temperature of the reaction mixture was allowed to rise to room temperature and a saturated aqueous solution of ammonium chloride was added to terminate the reaction. Water was added, followed by extraction with ethyl ether. The organic layer was successively washed with water and saturated saline and then dried over anhydrous sodium sulfate. After ethyl ether was distilled off, the residue was purified by chromatography on a silica gel column (eluent: 9:1 hexane/ethyl acetate) so that 3-phenyl-5-(1-hydroxy-2-methyl-2-butenyl)isoxazole was obtained as oil.

reactant | 3-phenyl-isoxazole-5-aldehyde | 28.9 mmol, 5.0 g | C1(=CC=CC=C1)C1=NOC(=C1)C=O | C10H7NO2
reactant | magnesium | 1.5 g | [Mg] | Mg
reactant | 2-bromo-2-butene | 74.8 mmol, 10.1 g | BrC(C)=CC | C4H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 3-Phenyl-5-(1-hydroxy-2-methyl-2-butenyl)isoxazole | C1(=CC=CC=C1)C1=NOC(=C1)C(C(=CC)C)O | C14H15NO2
